Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
albuterol / alendronate sodium / atorvastatin / Lipitor / 
pravastatin
 
Attending: ___
 
Chief Complaint:
Pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
Total vaginal hysterectomy, bilateral salpingo-oophorectomy, 
uterosacral suspension, anterior repair, TVT, cystoscopy

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 08:50AM BLOOD WBC-6.4 RBC-4.26 Hgb-12.7 Hct-37.4 MCV-88 
MCH-29.8 MCHC-34.0 RDW-12.4 RDWSD-39.8 Plt ___
___ 08:50AM BLOOD Plt ___
___ 12:34PM BLOOD HBsAg-Negative
___ 12:34PM BLOOD HIV Ab-Negative
___ 12:34PM BLOOD HCV Ab-Negative
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a total vaginal hysterectomy, bilateral 
salpingo-oophrectomy, uterosacral suspension, anterior repair, 
tension-free vaginal tape procedure, and cystoscopy for 
symptomatic pelvic organ prolapse and stress urinary 
incontinence. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine and IV 
dilaudid PRN. Her diet was advanced without difficulty and she 
was transitioned to PO tramadol and acetaminophen PRN.

She was continued on her home medications for GERD and 
hypothyroidism.
On post-operative day 1, her urine output was adequate and her 
Foley was removed after 300 mL was backfilled for a voiding 
trial. Patient was unable to void for over 30 minutes, therefore 
the foley was replaced and she was instructed in its care.

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
Levothyroxine 75 mcg QD, Premarin cream, Calcium, Vitamin D, 
Ranitidine, Multivitamin
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 8 hours Disp 
#*40 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*1 
3.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q24H 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
daily Disp #*5 Capsule Refills:*1 
4.  TraMADol 25 mg PO Q6H:PRN pain 
may cause sedation. do not drink alcohol or drive while taking 
tramadol 
RX *tramadol 50 mg ___ tablet(s) by mouth every 6 hours Disp 
#*25 Tablet Refills:*0 
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse, urinary incontinence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You were also given 
a prescription for Macrodantin (nitrofurantoin) antibiotic to 
prevent a UTI while you have the catheter. Please take as 
prescribed. You should follow-up in Dr. ___ on ___ 
for catheter removal. Please call for an appointment if you do 
not hear from them by next ___. 

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___